US04703054
The same procedure of the example 2, starting from N-benzyloxycarbonylglycine and 2-isopropyl-5-methyl-4-imidazolidinone afforded 1-(2-benzyloxycarbonylaminoacetyl)-2-isopropyl-5-methyl-4-imidazolidinone as a diastereoisomeric mixture Rf=0.52 and 0.57 (dichloromethane/methanol 9:1, silica gel plates) then the oily title compound as a diastereoisomeric mixture, Rf=0.24 and 0.27 (dichloromethane/methanol 7:3, silica gel plates). Mass spectrum (E.I., 70 e V, 1.5 mA), m/z=156 (M.+ --C3H7).

reactant | N-benzyloxycarbonylglycine | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | 2-isopropyl-5-methyl-4-imidazolidinone | C(C)(C)C1NC(C(N1)=O)C | C7H14N2O
solvent | dichloromethane methanol | ClCCl.CO
product | 1-(2-benzyloxycarbonylaminoacetyl)-2-isopropyl-5-methyl-4-imidazolidinone | C(C1=CC=CC=C1)OC(=O)NCC(=O)N1C(NC(C1C)=O)C(C)C | C17H23N3O4
